US07141561B2
1-(4-Cyclopentyloxyphenyl)-3-{4-[(2-hydroxyethyl)methylamino]phenyl}-1,3-dihydroimidazol-2-one
A solution of 1-(4-cyclopentyloxyphenyl)-1-(2,2-dimethoxyethyl)-3-{4-[(2-hydroxyethyl)methylamino]phenyl}urea (0.4 g) in dimethyl-formamide (6 mL) was mixed with trifluoroacetic acid (2 mL) and left to stand for 48 hours. The mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and sodium carbonate solution, dried and concentrated. The product with the molecular weight of 393.49 (C23H27N3O3); MS (ESI): 394 ([M+H]+), was obtained in this way.

reactant | 1-(4-cyclopentyloxyphenyl)-1-(2,2-dimethoxyethyl)-3-{4-[(2-hydroxyethyl)methylamino]phenyl}urea | 0.4 g | C1(CCCC1)OC1=CC=C(C=C1)N(C(=O)NC1=CC=C(C=C1)N(C)CCO)CC(OC)OC | C25H35N3O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethyl-formamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-Cyclopentyloxyphenyl)-3-{4-[(2-hydroxyethyl)methylamino]phenyl}-1,3-dihydroimidazol-2-one | C1(CCCC1)OC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)N(C)CCO)=O | C23H27N3O3
